US06579879B2
A mixture of 3-benzyloxy-6-chloro-pyridazine (18.2 mmol, 4 g), thiourea (36.3 mmol, 2.8 g) and ethyl methyl ketone (75 mL) was refluxed overnight. Excess ethyl methyl ketone was evaporated, the residue was extracted with 2M sodium hydroxide (25 mL) and the sodium hydroxide solution was washed with EtOAc (2×30 mL). The aqueous layer was collected and sufficient conc. HCl was added to bring the pH to 5 and extracted with EtOAc (2×30 mL). The EtOAc extract was collected, dried, filtered and the filtrate was evaporated to yield 3-benzyloxy-6-mercapto-pyridazine (15%, 605 mg); mp 155° C.-157° C.

reactant | 3-benzyloxy-6-chloro-pyridazine | 18.2 mmol, 4 g | C(C1=CC=CC=C1)OC=1N=NC(=CC1)Cl | C11H9ClN2O
reactant | thiourea | 36.3 mmol, 2.8 g | NC(=S)N | CH4N2S
solvent | ethyl methyl ketone | 75 mL | CC(=O)CC | C4H8O
product | 3-benzyloxy-6-mercapto-pyridazine | 605 mg, 15% | C(C1=CC=CC=C1)OC=1N=NC(=CC1)S | C11H10N2OS
